US05919776
4-Amino-6-(2'-trifluoromethyl-cinnamoyl)amino-2-methyl-quinoline
4,6-Diamino-2-methyl-quinoline (0.5 g, 2.9 mmol) was placed in an oven-dried 100-mL three-necked flask under nitrogen followed by 3 mL of glacial acetic acid. A solution of 2-(trifluoro-methyl)cinnamoyl chloride (0.68 g, 2.89 mmol) in 1 mL of glacial acetic acid was added dropwise over a 2 min period to this mixture. A heavy precipitate resulted. The mixture was stirred at room temperature for 1 hr, diethyl ether (25 mL) added, and the hydrochloride salt filtered, washed with ether, and dried at room temperature in vacuo. The hydrochloride salt was dissolved in a warm mixture of 50% aqueous methanol and the solution filtered. The solution was made basic with sodium bicarbonate solution and the resulting solid filtered, washed with water, and dried at 50° C. under high vacuum. Recrystallization from hot methanol gave 0.68 g (63%) of the desired product; m.p. 272-273°.

reactant | 4,6-Diamino-2-methyl-quinoline | 2.9 mmol, 0.5 g | NC1=CC(=NC2=CC=C(C=C12)N)C | C10H11N3
reactant | 2-(trifluoro-methyl)cinnamoyl chloride | 2.89 mmol, 0.68 g | FC(C1=C(C=CC(=O)Cl)C=CC=C1)(F)F | C10H6ClF3O
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 4-Amino-6-(2'-trifluoromethyl-cinnamoyl)amino-2-methyl-quinoline | 0.68 g, 63% | NC1=CC(=NC2=CC=C(C=C12)NC(C=CC1=C(C=CC=C1)C(F)(F)F)=O)C | C20H16F3N3O
